US07968550B2
4-Butoxy-2-methoxybenzoic acid
4-Hydroxy-2-methoxybenzaldehyde was alkylated with 1-bromobutane by method H. The resulting aldehyde (6.4 g) in dioxane (100 ml) was mixed with sodium dihydrogen phosphate (14.4 g) and sulfuric acid (2.4 ml), and the solution was cooled to 10° C. A solution of sodium chlorite (3.61 g) in water (100 ml) was added in such a way that the temperature did not exceed 10° C. 15 minutes after the addition was complete, sodium sulfite (4.6 g) was added. After a further 15 minutes, the pH was adjusted to 2 with hydrochloric acid and the dioxane was removed in a rotary evaporator. The aqueous phase was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was purified by preparative HPLC. This resulted in the product with the molecular weight of 224.26 (C12H16O4); MS (ESI): 225 (M+H+).

reactant | 4-Hydroxy-2-methoxybenzaldehyde | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | 1-bromobutane | BrCCCC | C4H9Br
reactant | sodium dihydrogen phosphate | 14.4 g | P(=O)(O)(O)[O-].[Na+]
reactant | sulfuric acid | 2.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium chlorite | 3.61 g | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | 4.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 4-Butoxy-2-methoxybenzoic acid | C(CCC)OC1=CC(=C(C(=O)O)C=C1)OC | C12H16O4
